US06624159B2
Ethyl 2-(2,3-Difluoro-5-iodobenzoyl)-3-ethoxy-2-propenoate [AE.1]
A flask equipped with a Dean-Stark trap and cold water condenser, is charged with ethyl 3-(2,3-difluoro-5-iodophenyl)-3-oxopropanoate (Preparation 20, 14.8 g), triethylorthoformate (12.4 g), and acetic anhydride (14.92 g). The contents are placed in an oil bath initially at 115° C. and the temperature quickly raised to 150° C. where it is maintained until the volume of ethyl acetate and ethanol distillate collected remained constant (ca. 1.25 h). The reaction mixture is cooled and concentrated at reduced pressure to obtain 16.86 g (98.5%) of the title compound as a dark golden oil. Physical characteristics: 1H NMR (CDCl3) δ8.98, 7.87-7.75, 7.71, 7.69-7.51, 4.36, 4.29-4.08, 3.75, 1.48, 1.35, 1.26, 1.21-1.02; MS (ESI+) m/z 411 (M+H)+.

reactant | water | O | H2O
reactant | ethyl 3-(2,3-difluoro-5-iodophenyl)-3-oxopropanoate | 14.8 g | FC1=C(C=C(C=C1F)I)C(CC(=O)OCC)=O | C11H9F2IO3
reactant | triethylorthoformate | 12.4 g | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 14.92 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(2,3-Difluoro-5-iodobenzoyl)-3-ethoxy-2-propenoate | 16.86 g, 98.5% | FC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C=C1F)I | C14H13F2IO4
